US07943622B2
Step 2. Synthesis of N-phenyl-2-((pyridin-3-yloxy)methyl)piperazine-1-carboxamide dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to tert-butyl 4-(phenylcarbamoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate (114.5 mg, 0.278 mmol). After 12 h, the reaction mixture was concentrated under reduced pressure, yielding 105.2 mg (98%) of the desired product as a white solid. LC-MS: RT=5.284 min, [M+H]+=313.1

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(phenylcarbamoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate | 0.278 mmol, 114.5 mg | C1(=CC=CC=C1)NC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)COC=1C=NC=CC1 | C22H28N4O4
product | N-phenyl-2-((pyridin-3-yloxy)methyl)piperazine-1-carboxamide dihydrochloride | 105.2 mg, 98% | Cl.Cl.C1(=CC=CC=C1)NC(=O)N1C(CNCC1)COC=1C=NC=CC1 | InChI=1S/C17H20N4O2.2ClH/c22-17(20-14-5-2-1-3-6-14)21-10-9-19-11-15(21)13-23-16-7-4-8-18-12-16;;/h1-8,12,15,19H,9-11,13H2,(H,20,22);2*1H
